US04826990
N-[(4-Methylphenyl)sulfonyl]-3-[(2-phenyl-4-thiazolyl)methoxy]benzamide
To a solution of 5.48 g (0.0176 mol) of 3-[(2-phenyl-4-thiazolyl)methoxy]benzoic acid in 100 ml of toluene are added 3.24 g (0.0200 mol) of 1,1'-carbonyldiimidazole and the solution is stirred for 1 hour. To this solution, 3.01 g (0.0176 mol) p-toluenesulfonamide are added and the solution is refluxed for 16 hours. After cooling, the bottom layer is isolated and concentrated in vacuo to obtain a clear oil. The clear oil is dissolved in methylene chloride and is washed twice with pH 4 buffer solution, twice with water and is concentrated in vacuo to obtain a residue. Recrystallization from toluene/ethyl acetate gives 1.5 g (18%) of crystals, m.p. 170°-172° C.

reactant | 3-[(2-phenyl-4-thiazolyl)methoxy]benzoic acid | 0.0176 mol, 5.48 g | C1(=CC=CC=C1)C=1SC=C(N1)COC=1C=C(C(=O)O)C=CC1 | C17H13NO3S
reactant | 1,1'-carbonyldiimidazole | 0.0200 mol, 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | p-toluenesulfonamide | 0.0176 mol, 3.01 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[(4-Methylphenyl)sulfonyl]-3-[(2-phenyl-4-thiazolyl)methoxy]benzamide | 1.5 g, 18% | CC1=CC=C(C=C1)S(=O)(=O)NC(C1=CC(=CC=C1)OCC=1N=C(SC1)C1=CC=CC=C1)=O | C24H20N2O4S2
